US07618978B2
3-(2-(S)-Amino-1-hydroxy-3-phenylpropyl)-1-methylpiperazin-2-one
Treat a solution of 3-(2(S)-dibenzylamino-1-hydroxy-3-phenylpropyl)-4-benzyloxycarbonyl-1-methylpiperazin-2-one (Isomer-2) (210 mg, 0.36 mmol) in methanol (10 mL) with 20% palladium hydroxide on carbon (48 mg) in one portion and stir the mixture under 1 atmosphere of hydrogen gas for 24 h. Filter through a filtering agent, wash with methanol and concentrate to give the title compound as an oil.

reactant | 3-(2(S)-dibenzylamino-1-hydroxy-3-phenylpropyl)-4-benzyloxycarbonyl-1-methylpiperazin-2-one | 0.36 mmol, 210 mg | C(C1=CC=CC=C1)N([C@H](C(O)C1C(N(CCN1C(=O)OCC1=CC=CC=C1)C)=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C36H39N3O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 48 mg | [OH-].[OH-].[Pd+2]
product | 3-(2-(S)-Amino-1-hydroxy-3-phenylpropyl)-1-methylpiperazin-2-one | N[C@H](C(O)C1C(N(CCN1)C)=O)CC1=CC=CC=C1 | C14H21N3O2
